US08012972B2
N-(2-t-Butoxycarbonylaminophenyl)-5-(3-dimethylaminopropylaminomethyl)pyridine-2-carboxylic acid amide (Reference Compound No. 5-1)
N-(2-t-Butoxycarbonylaminophenyl)-5-methanesulfonyloxy methylpyridine-2-carboxylic acid amide (Reference Compound No. 4-1, 4.9 g, 12 mmol) was added to a suspension of N,N-dimethyl-1,3-propanediamine (3.0 mL, 24 mmol) and potassium carbonate (3.3 g, 24 mmol) in DMF (40 mL), and then the reaction mixture was stirred at room temperature for 6 hours. Saturated aqueous sodium hydrogen carbonate (100 mL) was added thereto, and then the whole was extracted with ethyl acetate (100 mL) twice. The organic layer was washed with water (100 mL) three times, dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform-methanol) to give 1.9 g of the title reference compound as a yellow amorphous product. (Yield 38%)

reactant | N-(2-t-Butoxycarbonylaminophenyl)-5-methanesulfonyloxy methylpyridine-2-carboxylic acid amide | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)NC(=O)C1=NC=C(C=C1)COS(=O)(=O)C | C19H23N3O6S
reactant | N,N-dimethyl-1,3-propanediamine | 24 mmol, 3.0 mL | CN(CCCN)C | C5H14N2
reactant | potassium carbonate | 24 mmol, 3.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydrogen carbonate | 100 mL | C(O)([O-])=O.[Na+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | N-(2-t-Butoxycarbonylaminophenyl)-5-(3-dimethylaminopropylaminomethyl)pyridine-2-carboxylic acid amide | Yield 38% | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)NC(=O)C1=NC=C(C=C1)CNCCCN(C)C | C23H33N5O3
